US08357693B2
To a suspension of tert-butyl 5-(2-(3-((R)-1-(2,2,2-trifluoroacetyl)-pyrrolidine-2-carboxamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (100 mg, 0.15 mmol) in MeOH (5.7 mL) and H2O (345 mL) was added K2CO3 (108 mg, 0.78 mmol). Reaction mixture was refluxed for 2 h. Cooled to RT temperature and concentrated in vacuo. The residue was dissolved in EtOAc and extracted with H2O (3×). Dried the organic layer under Na2SO4 and concentrated in vacuo. The aqueous layer was basicified with 1 N NaOH, extracted with CHCl3 (3×), dried under Na2SO4 and concentrated in vacuo. The two organic layers were combined to afford tert-butyl 5-(2-(3-((R)-pyrrolidine-2-carboxamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate. (65 mg, 79%).

reactant | tert-butyl 5-(2-(3-((R)-1-(2,2,2-trifluoroacetyl)-pyrrolidine-2-carboxamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.15 mmol, 100 mg | FC(C(=O)N1[C@H](CCC1)C(=O)NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)(F)F | C33H30F3N7O4
reactant | K2CO3 | 0.78 mmol, 108 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 5.7 mL | CO | CH4O
solvent | H2O | 345 mL | O | H2O
product | tert-butyl 5-(2-(3-((R)-pyrrolidine-2-carboxamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | N1[C@H](CCC1)C(=O)NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C31H31N7O3
